US07741341B2
366.5.0 mg (0.929 mmol) 2-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester were dissolved in 15 mL DMF. Sequentially 192.6 mg (1.394 mmol) K2CO3 and 156.1 μl (1.394 mmol) 1-bromomethyl-3-methoxy-benzene were added and the resulting mixture was stirred for 4 h at 80°. The mixture was diluted with 300 mL toluene and washed with 50 mL of a saturated NaHCO3-solution. The product was not completely soluble in toluene, so ethyl acetate had to be added. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. The residue was purified by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) (separation of isomers) to give 1-(3-Methoxy-benzyl)-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester as a light brown amorphous solid.

reactant | 2-[4-(3-Oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | 0.929 mmol | COC(=O)C1=CC=CC=2NC(=NC21)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O | C20H18N4O5
reactant | K2CO3 | 1.394 mmol, 192.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromomethyl-3-methoxy-benzene | 1.394 mmol, 156.1 μl | BrCC1=CC(=CC=C1)OC | C8H9BrO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Methoxy-benzyl)-2-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N(C(=NC21)C(NC2=CC=C(C=C2)N2C(COCC2)=O)=O)CC2=CC(=CC=C2)OC | C28H26N4O6
